US07951951B2
V-1a 5-[2-(Chloromethyl)prop-2-en-1-yl]-4-pyrrolidin-1-ylfuran-2(5H)-one
800 mg (5.22 mmol) of 4-pyrrolidin-1-ylfuran-2(5H)-one (Shandala, M. Y. et al. J. Heterocycl. Chem. 1984, 21, 1753-1754) are dissolved in 80 ml of tetrahydrofuran and cooled to −78° C., and 3.07 ml (5.22 mmol) of a 1.7M solution of tert-butyllithium in pentane are added. After 30 min of stirring at −78° C., 1.21 ml (10.45 mmol) of 3-chloro-2-(chloromethyl)prop-1-ene are added and the mixture is stirred at −78° C. for a further 30 minutes, warmed to room temperature over a period of about 16 hours and stirred at room temperature for a further 3 hours. After addition of methanol and concentration under reduced pressure, the residue is purified by column chromatography on silica gel (silica gel 60, Merck, particle size: 0.04 to 0.063 mm) using the mobile phase ethyl acetate. This gives 735 mg (57% of theory) of 5-[2-(chloromethyl)prop-2-en-1-yl]-4-pyrrolidin-1-ylfuran-2(5H)-one.

reactant | 4-pyrrolidin-1-ylfuran-2(5H)-one | 5.22 mmol, 800 mg | N1(CCCC1)C1=CC(OC1)=O | C8H11NO2
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | 3-chloro-2-(chloromethyl)prop-1-ene | 10.45 mmol, 1.21 ml | ClCC(=C)CCl | C4H6Cl2
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 5-[2-(Chloromethyl)prop-2-en-1-yl]-4-pyrrolidin-1-ylfuran-2(5H)-one | ClCC(CC1C(=CC(O1)=O)N1CCCC1)=C | C12H16ClNO2
